US07230023B2
(4) (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-(hydroxymethyl)benzoate (Title Target Compound)
A chemical reaction was carried out according to a similar procedure to that described in Example 11-(4) using (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[(allyloxycarbonyl)oxymethyl]benzoate (1.52 g, 2.00 mmol), bis(triphenylphosphine)dichloropalladium (5 mg), and tributyltin hydride (620 mg, 2.13 mmol). The obtained crude product was subjected to chromatography on a silica gel (50 g) column (eluent; ethyl acetate:hexane=1:1˜1:0) to afford the title compound (1.096 g, 81% yield) as a colorless amorphous solid.

reactant | (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[(allyloxycarbonyl)oxymethyl]benzoate | 2.00 mmol, 1.52 g | C(C=C)OC(=O)OCC1=C(C(=O)O[C@@]([C@@H](C)S[C@H]2CO[C@@H](OC2)\C=C\C=C\C2=C(C=C(C=C2)C#N)F)(CN2N=CN=C2)C2=C(C=C(C=C2)F)F)C=CC=C1 | C39H35F3N4O7S
reactant | tributyltin hydride | 2.13 mmol, 620 mg | C(CCC)[SnH](CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)dichloropalladium | 5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | hexane | CCCCCC | C6H14
product | (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-(hydroxymethyl)benzoate | 1.096 g, 81% yield | OCC1=C(C(=O)O[C@@]([C@@H](C)S[C@H]2CO[C@@H](OC2)\C=C\C=C\C2=C(C=C(C=C2)C#N)F)(CN2N=CN=C2)C2=C(C=C(C=C2)F)F)C=CC=C1 | C35H31F3N4O5S
